US07943622B2
Step 3. Synthesis of N-(benzo[d]thiazol-6-yl)-2-((pyridin-3-yloxy)methyl)piperazine-1-carboxamide
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(benzo[d]thiazol-6-ylcarbamoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate di-TFA salt (154 mg, 0.221 mmol) in MeOH (1 mL). After stirring overnight, the reaction mixture was concentrated under reduced pressure, dissolved in 1 N NaOH, and extracted with EtOAc (3×). The combined extracts were dried over Na2SO4, filtered, and concentrated under reduced pressure, yielding 69.5 mg (85%) of the title compound as an off-white solid. LC-MS: RT=3.62 min, [M+H]+=370.1.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(benzo[d]thiazol-6-ylcarbamoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate di-TFA salt | 0.221 mmol, 154 mg | OC(=O)C(F)(F)F.OC(=O)C(F)(F)F.S1C=NC2=C1C=C(C=C2)NC(=O)N2C(CN(CC2)C(=O)OC(C)(C)C)COC=2C=NC=CC2
solvent | MeOH | 1 mL | CO | CH4O
product | N-(benzo[d]thiazol-6-yl)-2-((pyridin-3-yloxy)methyl)piperazine-1-carboxamide | 69.5 mg, 85% | S1C=NC2=C1C=C(C=C2)NC(=O)N2C(CNCC2)COC=2C=NC=CC2 | C18H19N5O2S
